US07960415B2
(S,S)-3-[2-(3-Acetylamino-2-oxo-2H-pyridin-1-yl)-butyrylamino]-4-hydroxy-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid tert-butyl ester
A stirred mixture of (S)-2-(3-Acetylamino-2-oxo-2H-pyridin-1-yl)-butyric acid (100 mg, 0.42 mmol), 3-amino-5-(2,3,5,6-tetrafluorophenoxy)-4-hydroxy-pentanoic acid tert-butyl ester (163 mg, 0.462 mmol), HOBt (62 mg, 0.462 mmol), DMAP (56 mg, 0.462 mmol) and THF (5 mL) was cooled to 0° C. then EDC (89 mg, 0.462 mmol) was added. The mixture was allowed to warm to room temperature during 16 h then concentrated under reduced pressure. The residue was purified by flash chromatography (50-50% ethyl acetate/hexane) to afford the title compound as a white foam (221 mg, 92%); 1H NMR (400 MHz, CDCl3) δ 0.88-0.93 (3H, m), 1.37-1.38 (9H, 2 s), 1.86-1.96 (1H, m), 2.15-2.25 (4H, m), 2.55-2.71 (2H, m), 3.70-4.64 (5H, m), 5.30-5.39 (1H, m), 6.30-6.35 (1H, m), 6.75-6.86 (1H, m), 7.17-7.31 (2H, m), 8.31-8.47 (2H, m).

reactant | (S)-2-(3-Acetylamino-2-oxo-2H-pyridin-1-yl)-butyric acid | 0.42 mmol, 100 mg | C(C)(=O)NC=1C(N(C=CC1)[C@H](C(=O)O)CC)=O | C11H14N2O4
reactant | 3-amino-5-(2,3,5,6-tetrafluorophenoxy)-4-hydroxy-pentanoic acid tert-butyl ester | 0.462 mmol, 163 mg | C(C)(C)(C)OC(CC(C(COC1=C(C(=CC(=C1F)F)F)F)O)N)=O | C15H19F4NO4
reactant | HOBt | 0.462 mmol, 62 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.462 mmol, 89 mg
catalyst | DMAP | 0.462 mmol, 56 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S,S)-3-[2-(3-Acetylamino-2-oxo-2H-pyridin-1-yl)-butyrylamino]-4-hydroxy-5-(2,3,5,6-tetrafluoro-phenoxy)-pentanoic acid tert-butyl ester | 221 mg, 92% | C(C)(C)(C)OC(C[C@@H]([C@@H](COC1=C(C(=CC(=C1F)F)F)F)O)NC(C(CC)N1C(C(=CC=C1)NC(C)=O)=O)=O)=O | C26H31F4N3O7
